US04097491
Preparation of N-(2,2-Dipropoxyethyl)-N-(4-methyl-1,3-dioxan-2-ylmethyl)-α-chloroacetamide
N-(2,2-Dipropoxyethyl)-N-(4-methyl-1,3-dioxan-2-yl-methyl)amine (0.05 mole), benzene (100 ml), water (100 ml) and sodium carbonate (2 grams) are charged into a glass reaction vessel equipped with a mechanical stirrer and thermometer. The reaction mixture is cooled to a temperature of from 5° to 10° C and chloroacetyl chloride (0.05 mole) is added dropwise with stirring. After the addition is completed stirring is continued until the reaction mixture has reached room temperature. After this time the organic phase is separated from the aqueous phase and is washed with water. The washed solution is then dried over anhydrous magnesium sulfate, filtered and stripped of solvent under reduced pressure to yield the desired product N-(2,2-dipropoxyethyl)-N-(4-methyl-1,3-dioxan-2-ylmethyl)-α-chloroacetamide as the residue.

reactant | N-(2,2-Dipropoxyethyl)-N-(4-methyl-1,3-dioxan-2-yl-methyl)amine | 0.05 mole | C(CC)OC(CNCC1OCCC(O1)C)OCCC | C14H29NO4
reactant | benzene | 100 ml | C1=CC=CC=C1 | C6H6
reactant | sodium carbonate | 2 grams | C([O-])([O-])=O.[Na+].[Na+]
reactant | chloroacetyl chloride | 0.05 mole | ClCC(=O)Cl | C2H2Cl2O
solvent | water | 100 ml | O | H2O
product | N-(2,2-dipropoxyethyl)-N-(4-methyl-1,3-dioxan-2-ylmethyl)-α-chloroacetamide | C(CC)OC(CN(C(CCl)=O)CC1OCCC(O1)C)OCCC | C16H30ClNO5
